US07935699B2
In a round bottom flask was placed (2,3-dihydro-benzo[b]thiophen-5-yl)-acetic acid (525 mg, 2.70 mmol), methanol (15 mL) and hydrochloric acid (2 drops). The reaction mixture was heated to 65° C. for 16 h. It was then concentrated in vacuo to remove the methanol, diluted with water (20 mL) and extracted with ethyl acetate (3×20 mL). The organic layers were combined and washed with a saturated aqueous sodium bicarbonate solution (10 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford (2,3-dihydro-benzo[b]thiophen-5-yl)-acetic acid methyl ester (528 mg, 94%) as a yellow oil: ES-HRMS m/e calcd for C11H12O2S (M+H)+ 209.0631, observed 209.0631.

reactant | (2,3-dihydro-benzo[b]thiophen-5-yl)-acetic acid | 2.70 mmol, 525 mg | S1C2=C(CC1)C=C(C=C2)CC(=O)O | C10H10O2S
reactant | methanol | 15 mL | CO | CH4O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | (2,3-dihydro-benzo[b]thiophen-5-yl)-acetic acid methyl ester | 528 mg, 94% | COC(CC1=CC2=C(SCC2)C=C1)=O | C11H12O2S
